* C:\Users\ACER\Desktop\BJT\pnp\sim_bjt_output.asc
Q1 VEB 0 VEC 0 2N3906
V1 VEB 0 {VVAR}
V2 0 VEC 0
.model NPN NPN
.model PNP PNP
.lib C:\Users\ACER\Documents\LTspiceXVII\lib\cmp\standard.bjt
* Curva de salida IC vs VEC
.include 2N3906.SP3
.dc V2 0 5 0.01
.step param VVAR list 0.3 0.5 0.7 0.9 1.1 1.3
.backanno
.end
