* C:\Users\ACER\Desktop\Caca\sim_bjt_output.asc
V1 VEB N001 {VVAR}
V2 VEB 0 0
Q1 0 N001 VEB 0 2N3906
.model NPN NPN
.model PNP PNP
.lib C:\Users\ACER\Documents\LTspiceXVII\lib\cmp\standard.bjt
.include 2N3906.SP3
.dc V2 0 5 0.01
.step param VVAR list 0.3 0.5 0.7 0.9 1.1 1.3
* Curva de salida -Ic vs VEC
.backanno
.end
